US07605171B2
Step E: 2-(2-Methylpropyl)-5-bromobenzonitrile
5-Bromo-2-iodobenzonitrile (3.25 mmol) was combined with 6.5 mL of 0.5 M solution of iso-butylzinc bromide, the solution was degassed with argon, 100 mg of tetrakis(triphenylphosphine) palladium was added in one portion and the solution was stirred at rt under argon for 48 h. The solvents were removed under reduced pressure and the residual mixture was purified by column chromatography using Biotage 40L cartridge to obtain the title compound: 1H NMR (500 MHZ, CDCl3) δ 0.97 (d, J=8.5, 6H), 2.00 (m, 1H), 2.71 (d, J=7.5, 2H), 7.19 (d, J=8.5, 1H), 7.65 (dd, J=8.5, 2.0, 1H), 7.76 (d, J=2.0, 1H).

reactant | 5-Bromo-2-iodobenzonitrile | 3.25 mmol | BrC=1C=CC(=C(C#N)C1)I | C7H3BrIN
reactant | iso-butylzinc bromide | [Br-].C(C(C)C)[Zn+]
product | 2-(2-Methylpropyl)-5-bromobenzonitrile | CC(CC1=C(C#N)C=C(C=C1)Br)C | C11H12BrN
